US07572808B2
Preparation of 7,8-bis(4-chlorophenyl)-2-(3,3,3-triflouropropyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirring mixture of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (50 mg, 0.14 mmol) and K2CO3 (40 mg, 0.28 mmol) in DMF (0.47 mL) at 20° C. was added 3-bromo-1,1,1-trifluoropropane (50 mg, 0.28 mmol). The resulting reaction mixture was heated at 80° C. for 60 min. Analysis by HPLC/MS indicated that starting material had been consumed. The reaction mixture was brought to room temperature, diluted with water, and extracted twice with diethyl ether. The combined organic extract was washed with saturated aqueous NaHCO3 solution, then brine, then dried (MgSO4), filtered, and concentrated under reduced pressure. The crude product was purified by reverse phase preparative HPLC (acetonitrile-water-TFA) to isolate the title compound (37 mg, 0.082 mmol) as a yellow oil. MS: [M+H]+=452.

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.14 mmol, 50 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C18H11Cl2N3O
reactant | K2CO3 | 0.28 mmol, 40 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromo-1,1,1-trifluoropropane | 0.28 mmol, 50 mg | BrCCC(F)(F)F | C3H4BrF3
solvent | DMF | 0.47 mL | CN(C)C=O | C3H7NO
product | 7,8-bis(4-chlorophenyl)-2-(3,3,3-triflouropropyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.082 mmol, 37 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CCC(F)(F)F)=O)C2=CC=C(C=C2)Cl | C21H14Cl2F3N3O
